US08278482B2
2-Methylbut-3-yn-2-amine (5.11 g, 61.5 mmol) and di-t-butyl dicarbonate (13.4 g, 61.5 mmol) were dissolved in tetrahydrofuran (100 ml). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo, and the crude material was dissolved in ethyl acetate. The solution was washed with aqueous sodium bicarbonate solution. The organic layer was dried over sodium sulfate and concentrated in vacuo to give 10.4 g (92%) of tert-butyl 2-methylbut-3-yn-2-ylcarbamate as a white solid. 1H NMR (CDCl3) δ 4.69 (s, 1 H), 2.30 (s, 1 H), 1.58 (s, 6 H), 1.46 (s, 9 H); C10H18NO2: 183.13. Found: 184.1 (M+H).

reactant | 2-Methylbut-3-yn-2-amine | 61.5 mmol, 5.11 g | CC(C)(C#C)N | C5H9N
reactant | di-t-butyl dicarbonate | 61.5 mmol, 13.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-methylbut-3-yn-2-ylcarbamate | 10.4 g, 92% | CC(C)(C#C)NC(OC(C)(C)C)=O | C10H17NO2
